Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, transfer for ERCP
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
___ year old ___ speaking male with h/o ___ 
transferred from ___ for ERCP. Presented to OSH ___ 
with RUQ pain, jaundice, chills and dark urine x 1 week, s/p 
ERCP on ___ demonstrating stone CBD which was not successfully 
extracted, traveled into left intrahepatic duct. Re-attempted 
ERCP ___, again, unable to extract stone. Course complicated by 
post-ERCP pancreatitis, treated conservatively, had been 
advanced to clear liquids prior to being made NPO for repeat 
ERCP. Of note, he is scheduled for outpatient follow-up with 
general surgeon Dr ___ at ___ for consideration of CCY. 

Currently, patient reports that pain has improved to ___ after 
IV dilaudid on arrival. He notes that he has undergone 3 ERCPs 
in the last 1.5 weeks ___ at ___ after which he 
was given a course of antibiotics, then ERCP x 2 at ___ as 
above). 10 point ROS negative except as per HPI.
 
Past Medical History:
-Cholelithiasis
 
Social History:
___
Family History:
Mother had cholelithiasis. No h/o cancer or MI.
 
Physical Exam:
Vitals-  T 98.3 123/75 HR 62 RR 16 98% RA
General- pleasant young male sitting up in bed, Alert, oriented, 
no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, mild tenderness to palpation RUQ, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- motor function grossly normal 
 
Pertinent Results:
Outside labs/studies:

___: Cr 0.7
ALT 323
AST 106
AP 177
Tbili 9.2 (___)
HCV ab HBV sab neg

ERCP ___
12mm stone in main bile duct, Sphincterotomy performed, stone 
escaped into left hepatic duct

ERCP ___
Sphincterotomy appeared open, 8mm stone in left main hepatic 
duct, unable to be retrieved.

 
Brief Hospital Course:
___ with obstructing biliary stone transferred from OSH
and now s/p ERCP w sphincterotomy and stone extraction on ___.  


# Possible cholangitis
# Choledocholithiasis with obstruction: s/p successful
sphincterotomy ___ at ___.

# Cholelithiasis/Biliary obstruction: Stone in left hepatic duct 
despite multiple removal attempts. S/p ERCP x 3, c/b post-ERCP 
pancreatitis at OSH. 

Consulted ACS surgery while at ___ to help facilitate CCY 
during this admission so he could address all biliary and 
gallstone issues before discharge, but patient opted to f/u with 
his surgeon he was referred to by the ___.  I 
understand he already has outpt f/u for CCY eval as scheduled 
___

Rx for cipro 5d.
Reviewed symptoms of worsened biliary disease/infection with 
translator and reason to have ccy to reduce risk of future stone 
related complications ie cbd stones, pancreatitis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis with obstruction
Cholelithiasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with a gallstone. You 
underwent ERCP where they removed the stone.

we advised you to have your gallbladder surgery done this 
admission but you chose to see a surgeon later this month

removing gallbladder will reduce risk for future problems 
related to gallstones

take antibiotic as prescribed
 
Followup Instructions:
___